US05614520
2-(4-Carboxyphenyl)-4-methyl-5-thiazolecarboxylic acid was prepared from 4-thiocarbamoylbenzoic acid through an ethyl 2-(4-carboxyphenyl)-4-methyl-5-thiazolecarboxylate in the same manner as that of Example 13 (yield: 49%).

reactant | 4-thiocarbamoylbenzoic acid | C(N)(=S)C1=CC=C(C(=O)O)C=C1 | C8H7NO2S
reactant | ethyl 2-(4-carboxyphenyl)-4-methyl-5-thiazolecarboxylate | C(=O)(O)C1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC | C14H13NO4S
product | 2-(4-Carboxyphenyl)-4-methyl-5-thiazolecarboxylic acid | C(=O)(O)C1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C12H9NO4S
